Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Kaletra
 
Attending: ___.
 
Chief Complaint:
dysuria
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Patient is a ___ male with HIV who presents with dysuria.  
.  
He was in his usual state of health until last week when he was 
found to have a pneumonia at an OSH. At that time, his only 
complaints were fevers to 102 and very minimal cough. He was 
treated with abx as an inpatient and then discharged with a 
script of an unknown antibiotic (?azithromycin) but never filled 
it. His respiratory symptoms and fevers resolved but he 
developed dysuria two days ago. He describes it as a burning 
sensation when he urinates but denies any nocturia, polyuria, or 
fevers. He also denies chills, shortness of breath, chest pain, 
dizziness, lightheadedness or syncope. He denies any recent 
sexual encounters and is not an IV drug user. Denies sick 
contacts. He is in the process of moving from ___ to 
___  
.  
In the ED, initial VS: T-99.2, HR- 69, BP- 127/71, RR 15, SaO2- 
100% on RA. The patient's CXR revealed RLL pneumonia so he 
received levofloxacin in the ED. UA demonstrate no bacteria or 
leukocyte esterase but moderate blood, 23 RBC, 25 WBC. He 
remained afebrile in the ED. He is being admitted for further 
evaluation.  
.  
On arrival to the floor, vital signs were T- 97.8, BP- 105/64, 
HR-105, RR- 20, SaO2- 98% on RA. The patient had no acute 
complaints and was comfortable.  

 
Past Medical History:
1:HIV/AIDS (dz ___ 
2. Seizure d/o 
3. Panic d/o with agoraphobia 
4. EtOH abuse 
5. inguinal LAD s/p bx 95 with BMBx - lymphoma 
6. Depression 
7. HSV 
8. Oral hairy leukoplakia 
9. h/o thrush 
10. h/o PCP 
11. h/o chorioretinitis 
12. s/p appy 
13. B cataracts

 
Social History:
___
Family History:
Heart disease, DM, HTN, Notable for father having a pancreatic 
cyst at age ___ resolved.
 
Physical Exam:
PHYSICAL EXAM:  
VS - T- 97.8, BP- 105/64, HR-105, RR- 20, SaO2- 98% on RA  
GENERAL - Alert, interactive, well-appearing in NAD  
HEENT - EOMI, sclerae anicteric, MMM, OP clear  
NECK - Supple, no thyromegaly, no JVD  
HEART - RRR, nl S1-S2, no MRG  
LUNGS - CTAB, no r/rh/wh, good air movement, resp unlabored, no 
accessory muscle use  
ABDOMEN - NABS, soft/ND, no masses or HSM, TTP in LLQ with deep 
palpation. no r/g 
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses  
SKIN - no rashes or lesions  
LYMPH - no cervical LAD  
GU- no sores, dysuria, scrotal tenderness/enlargement, prostate 
was not boggy or tender, wnl.
NEURO - awake, A&Ox3, CNs II-XII grossly intact, no focal 
deficits, gait deferred.  

 
Pertinent Results:
___ 10:15PM BLOOD WBC-3.2* RBC-3.67* Hgb-10.7* Hct-31.4* 
MCV-86# MCH-29.3# MCHC-34.2 RDW-18.4* Plt ___
___ 07:09AM BLOOD WBC-2.7* RBC-3.37* Hgb-10.1* Hct-29.4* 
MCV-87 MCH-29.8 MCHC-34.2 RDW-18.0* Plt ___
___ 10:15PM BLOOD Neuts-58.2 ___ Monos-4.1 Eos-5.1* 
Baso-0.8

___ 10:15PM BLOOD Glucose-99 UreaN-18 Creat-0.9 Na-139 
K-4.3 Cl-106 HCO3-25 AnGap-12
___ 07:09AM BLOOD Glucose-81 UreaN-17 Creat-0.7 Na-138 
K-4.3 Cl-108 HCO3-21* AnGap-13
___ 07:09AM BLOOD Calcium-8.1* Phos-3.2 Mg-1.8
___ 07:09AM BLOOD ALT-38 AST-31 LD(LDH)-156 AlkPhos-64 
TotBili-0.3

___
TWO VIEWS OF THE CHEST: 
  
The lungs are well expanded and show a new focal airspace 
opacity in the right 
lower lobe. The cardiomediastinal silhouette, hilar contours and 
pleural 
surfaces are normal. No pleural effusion or pneumothorax is 
present. 
  
IMPRESSION: 
  
New right lower lobe opacity could represent early pneumonia. A 
repeat 
radiograph is recommended after adequate treatment to ensure 
resolution. 

 
Brief Hospital Course:
ASSESSMENT AND PLAN: ___ male with HIV on HAART who presents 
with dysuria.  
.  
# Dysuria- initial concern was for infection but UA without 
bacteria or leuk esterase. That being said, the patient recently 
received an antibiotic (unclear, patient didn't remember) for 
pneumonia which could render UA sterile. UA WBC 26, RBC 23 with 
moderate blood. Patient does have history of nephrolithiasis and 
states symptoms were similar. This is also supported by mild 
inflammation and moderate blood on UA. Other possibilites 
include an acute prostatitis but patient afebrile and would 
expect more significant findings on lab work and UA.  Moreover, 
his prostate exam was benign with out boggyness or tenderness.  
The patient was discharge on emperic coverage for a UTI- 10 
total days of levofloxacin.  The patient dysuria improved prior 
to discharge.
.
#. probable Pneumonia- The patient discharged 1 week ago from 
OSH with diagnosis of pneumonia but did not complete course of 
antibiotics. Respiratory symptoms have resolved and patient 
afebrile. Given findings on CXR, he was treated with 
levofloxacin, to complete a 10 day course.  The consolidation is 
likely his prior pneumonia that has yet to resolve on imaging. 
He remained afebrile and comfortable.  
.  
# HIV- continue HAART. Unlikely to be PCP PNA as patient without 
radiograph findings and looks well clinically.  His home 
medication of truvada, ritonavir, atazanavir, and dapsone (for 
PCP ___ were continued.
.
#. f/u. The patient was instructed to follow up with his PCP 
___ 2 weeks.

TRANSITIONAL ISSUES
-follow up with PCP
-___ CXR in ___ weeks to check for resolution of pneumonia
-Follow-up of CBC
 
Medications on Admission:
1. atazanavir 150 mg Capsule Sig: Two (2) Capsule PO twice a 
day.  
2. ritonavir 100 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. emtricitabine-tenofovir 200-300 mg Tablet Sig: One (1) Tablet 
PO DAILY (Daily).  
4. dapsone 100 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Medications:
1. atazanavir 150 mg Capsule Sig: Two (2) Capsule PO twice a 
day.  
2. ritonavir 100 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. emtricitabine-tenofovir 200-300 mg Tablet Sig: One (1) Tablet 
PO DAILY (Daily).  
4. dapsone 100 mg Tablet Sig: One (1) Tablet PO once a day.  
5. levofloxacin 750 mg Tablet Sig: One (1) Tablet PO once a day 
for 9 days.
Disp:*9 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
urinary tract infection
kidney stone

Secondary:
HIV
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

You were admitted to ___ 
pain with urination.  This could be due to either a urinary 
tract infection or due to kidney stones.  You will need to take 
9 additional days of antibiotics for a possible urinary tract 
infection.  Please also stay well hydrated to help pass a 
possible kidney stone.  Please also follow up with your primary 
care doctor within 2 weeks of discharge.

Medication Changes
Start taking levofloxacin 750mg by mouth once a day for 9 days
Continue all medications as prescribed
 
Followup Instructions:
___